US07417060B2
A mixture of methyl 4-bromo-2-isobutoxybenzoate (12.0 g), bis(pinacolato)diboron (12.2 g), dichloropalladium-triphenylphosphine (1:2, 2.05 g) and potassium acetate (12.3 g) in 1,4-dioxane (120 ml) was stirred at 90° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was poured into ethyl acetate (500 ml) and water (500 ml) and the mixture was filtered through a Celite cake. The organic layer was separated and washed with water (500 ml) and brine (500 ml). The separated organic layer was concentrated under reduced pressure to ca. 150 ml. To the solution were added water (150 ml), acetic acid ammoniate (14.4 g) and sodium periodate (31.2 g) and the reaction mixture was stirred at room temperature for 3.5 hours. The reaction mixture was filtered and washed with ethyl acetate. The filtrate was extracted with ethyl acetate (twice) and the combined organic layer was washed with water and brine and dried over magnesium sulfate. Filtration followed by evaporation under reduced pressure gave a crude product followed by purification by column chromatography on silica gel (eluent: chloroform/methanol=98/2) to give [3-isobutoxy-4-(methoxycarbonyl)phenyl]boronic acid (7.58 g) as a purple solid.

reactant | methyl 4-bromo-2-isobutoxybenzoate | 12.0 g | BrC1=CC(=C(C(=O)OC)C=C1)OCC(C)C | C12H15BrO3
reactant | bis(pinacolato)diboron | 12.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.3 g | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
catalyst | dichloropalladium triphenylphosphine | 2.05 g | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 500 ml | O | H2O
product | [3-isobutoxy-4-(methoxycarbonyl)phenyl]boronic acid | 7.58 g | C(C(C)C)OC=1C=C(C=CC1C(=O)OC)B(O)O | C12H17BO5
